US05574055
8.05 g (44.6 mmol) of 4-cyclohexylaniline, 12.0 g (57 mmol) of methanesulfonic acid (RS)-2,2-dimethyl-1,3-dioxolan-4-yl-methyl ester and 11.2 ml (80 mmol) of triethylamine were held at 140° in a bomb tube for 4 h. The solvent was distilled off in a water-jet vacuum and the brown oily residue was treated with 50 ml of 3N hydrochloric acid and stirred at 50° for 1 hour. After cooling the mixture was extracted twice with 250 ml of ether each time, the aqueous phase was made alkaline with 3N sodium hydroxide solution and the product was taken up in ethyl acetate. The organic phase was washed with water, dried over magnesium sulfate and the solvent was distilled off. The oily residue crystallized upon treatment with ethyl acetate/hexane. 2.2 g of crystalline (RS)-3-(4-cyclohexyl-phenylamino)-propane-1,2-diol were obtained. M.p.: 121°-122° (dec.). A further 0.65 g of crystalline product was obtained from the mother liquor.

reactant | 4-cyclohexylaniline | 44.6 mmol, 8.05 g | C1(CCCCC1)C1=CC=C(N)C=C1 | C12H17N
reactant | methanesulfonic acid (RS)-2,2-dimethyl-1,3-dioxolan-4-yl-methyl ester | 57 mmol, 12.0 g | CC1(OCC(O1)COS(=O)(=O)C)C | C7H14O5S
reactant | triethylamine | 80 mmol, 11.2 ml | C(C)N(CC)CC | C6H15N
product | (RS)-3-(4-cyclohexyl-phenylamino)-propane-1,2-diol | 2.2 g | C1(CCCCC1)C1=CC=C(C=C1)NCC(CO)O | C15H23NO2
